US04876249
Preparation of 4,4-dimethyl-2-pentyl-2-oxazoline
Following the procedure under Example 11, 6.085 g (52.4 mmoles) of hexanoic acid and 10 ml (9.34 g, 104.8 mmoles) of 2-amino-2-methylpropanol was heated to 185°C. Work up and fractional distillation gave 7.2g (81%) of product, b.p. 90°-92° C./25mmHg.

reactant | hexanoic acid | 52.4 mmoles, 6.085 g | C(CCCCC)(=O)O | C6H12O2
reactant | 2-amino-2-methylpropanol | 104.8 mmoles, 10 ml, 9.34 g | NC(CO)(C)C | C4H11NO
product | 4,4-dimethyl-2-pentyl-2-oxazoline | 7.2g, 81% | CC1(N=C(OC1)CCCCC)C | C10H19NO
